data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2452,2720,[CH3:17][NH:18][C:19](=[O:20])[C:21]([CH3:22])=[N+:23]([CH3:24])[C-:25]([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:25]([C:26]([CH3:27])=[O:28])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:23]([CH3:24])[C:21]2([C:19]([NH:18][CH3:17])=[O:20])[CH3:22],water,298.15,28.099604805813,-33.15273744926909
4097,4690,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([CH3:14])[C:15]([CH3:16])=[O:17])[C:18](=[O:19])[NH:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:18](=[O:19])[NH:20][CH3:21])[O:12][C:13]1([CH3:14])[C:15]([CH3:16])=[O:17],water,298.15,17.85249983535329,-39.882735569792224
4356,4977,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:16][C:14]1([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,10.503738146835882,-34.783454607047865
1484,1639,[CH3:17][O:18][C:19](=[O:20])[C:21](=[NH+:22][N-:23][C:24]#[N:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[N:23]([C:24]#[N:25])[NH:22][C:21]2([C:19]([O:18][CH3:17])=[O:20])[C:26]([CH3:27])=[O:28],water,298.15,14.088552874794548,-35.098303046134035
5144,5842,[CH3:10][C:11](=[O:12])[C:13](=[O+:14][C-:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28]([CH3:29])=[O:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[O:14][C:13]1([C:11]([CH3:10])=[O:12])[C:28]([CH3:29])=[O:30],water,298.15,26.33523021750664,-17.824742853419796
2131,2365,[CH3:12][NH:13][C:14](=[O:15])[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)=[N+:23]([CH3:24])[C-:25]([CH3:26])[C:27](=[O:28])[NH:29][CH3:30].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[N:23]([CH3:24])[C:25]2([CH3:26])[C:27](=[O:28])[NH:29][CH3:30],water,298.15,23.61502256567464,-28.79010005328143
2301,2551,[CH3:12][O:13][C:14](=[O:15])[C-:16]([CH3:17])[N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:20]([C:21]([CH3:22])=[O:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:18]([CH3:19])[C:16]2([C:14]([O:13][CH3:12])=[O:15])[CH3:17],water,298.15,35.34712599409904,-13.9203775388031
370,401,[CH3:10][O:11][C:12](=[O:13])[c-:14]1[o+:15][n:16][o:17][c:18]1=[O:19].[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[N:16]1[O:15][C:14]2([C:12]([O:11][CH3:10])=[O:13])[C:18](=[O:19])[O:17]1,water,298.15,16.619079485712952,-30.16578616200304
2605,2887,[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[C-:30]([C:31]#[N:32])[NH+:33]=[C:34]([CH3:35])[C:36]#[N:37]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:34]([CH3:35])([C:36]#[N:37])[NH:33][C:30]2([C:28]([NH:27][CH3:26])=[O:29])[C:31]#[N:32],water,298.15,15.954276962415795,-33.07359989177088
3327,3775,[CH3:10][C:11](=[O:12])[N:13]=[NH+:14][N-:15][C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:13]([C:11]([CH3:10])=[O:12])[NH:14][N:15]1[C:16]#[N:17],water,298.15,27.35061271144076,-4.021916570663429
792,857,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[O:17][CH3:18])=[N+:19]([CH3:20])[CH-:21][C:22]#[N:23].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[CH:21]([C:22]#[N:23])[N:19]([CH3:20])[C:14]2([C:12]([O:11][CH3:10])=[O:13])[C:15](=[O:16])[O:17][CH3:18],water,298.15,11.44362892997681,-32.3333376922854
